US04118572
2.87 G. of sodium carbonate are added to a solution of 7.6 g. of 1-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine in 76 ml. of ethanol. Then, a solution of 1.9 ml. of propargyl bromide in 15 ml. of ethanol is added dropwise with stirring. The mixture is stirred for 20 hours at room temperature and the solvent is then evaporated under reduced pressure. The residue is partitioned between water and chloroform. The phases are separated. The aqueous solution is extracted again with chloroform. The chloroform solutions are washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue is crystallized using diisopropyl ether, and there is obtained 1-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-4-(2-propynyl)-piperazine having a melting point of 105°-107° C. The dihydrochloride, prepared in ethanol, melts at 213°-215° C. (with decomposition).

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine | ClC1=CC2=C(OC3=C(C(C2)N2CCNCC2)C=C(C=C3)Cl)C=C1 | C18H18Cl2N2O
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | ethanol | C(C)O | C2H6O
product | 1-[2,8-dichloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-4-(2-propynyl)-piperazine | ClC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CC#C)C=C(C=C3)Cl)C=C1 | C21H20Cl2N2O
